US07820683B2
(2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.43 mmol) was reacted with ethanolamine (0.26 ml, 4.3 mmol) to give the title compound as a solid (170 mg, 80%), except that the mixture was heated at 45° C. for 20 hours. NMR Spectrum 1.65 (d, 3H), 3.22 (m, 2H), 3.43 (m, 2H), 4.75 (t, 1H), 5.23 (q, 1H), 5.79 (s, 2H), 7.02 (d, 1H), 7.36 (d, 1H), 7.51 (s, 1H), 7.79-7.72 (m, 3H), 8.11 (s, 1H), 8.48 (m, 1H), 8.51 (s, 2H), 9.04 (s, 1H), 10.72 (br s, 1H); Mass spectrum MH+ 490.

reactant | methyl (2R)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.43 mmol, 200 mg | S1C=NC(=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C23H20N6O3S
reactant | ethanolamine | 4.3 mmol, 0.26 ml | C(O)CN | C2H7NO
product | (2R)—N-(2-hydroxyethyl)-2-[(4-{[1-(1,3-thiazol-4-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 170 mg, 80% | OCCNC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1N=CSC1)=O | C24H23N7O3S
